US07253154B2
(3) 2-(3-Cyano-4-isobutyloxyphenyl)-7-methoxy-1,3-benzothiazole
Dioxane (70 mL) and water (70 mL) were added to a mixture of 3-cyano-4-isobutyloxy-N-(3-methoxyphenyl)thiobenzamide (900 mg, 2.64 mmol), potassium ferricyanide (2.61 g, 7.93 mmol), and potassium hydroxide (892 mg, 15.9 mmol). The resulting mixture was stirred for 20 hours at room temperature. The mixture was then placed under reduced pressure to distill the solvent off, and extracted with ethyl acetate (50 mL). The ethyl acetate portion was washed with water, dried over anhydrous magnesium sulfate, and placed under reduced pressure to distill the solvent off. The residue was purified by silica gel column chromatography (ethyl acetate/toluene=1/20-1/10), to give 322 mg (yield 36%) of the desired compound in the form of a pale yellow crystalline product.

reactant | Dioxane | 70 mL | O1CCOCC1 | C4H8O2
reactant | 3-cyano-4-isobutyloxy-N-(3-methoxyphenyl)thiobenzamide | 2.64 mmol, 900 mg | C(#N)C=1C=C(C(=S)NC2=CC(=CC=C2)OC)C=CC1OCC(C)C | C19H20N2O2S
reactant | potassium hydroxide | 15.9 mmol, 892 mg | [OH-].[K+]
catalyst | potassium ferricyanide | 7.93 mmol, 2.61 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
solvent | water | 70 mL | O | H2O
product | 2-(3-Cyano-4-isobutyloxyphenyl)-7-methoxy-1,3-benzothiazole | 322 mg, yield 36% | C(#N)C=1C=C(C=CC1OCC(C)C)C=1SC2=C(N1)C=CC=C2OC | C19H18N2O2S
